US06878714B2
Step B Preparation of 4-(2-tert-butyl-5-nitrophenyl)pyridine
To a solution of 2-bromo-1-tert-butyl-4-nitrobenzene (8.6 g, 33.3 mmol) and toluene (70 mL) in a 150 mL round bottom flask, 4-pyridylboronic acid (4.5 g, 36.6 mmol), Pd(PPh3)4 (3.8 g, 3.3 mmol) and K2CO3 (13.8 g, 99.9 mmol) were added. The solution was stirred for 24 h at 80° C. before cooling to RT. The solution was filtered through a pad of Celite® and purified by silica flash chromatography (30% EtOAc/Hexanes). This afforded the desired compound as a yellow solid. MS (ES+): 257.2 (M+H)+; (ES−): 255.2 (M−H)−. Calc'd for C15H16N2O2: 256.12.

reactant | 2-bromo-1-tert-butyl-4-nitrobenzene | 33.3 mmol, 8.6 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C | C10H12BrNO2
reactant | 4-pyridylboronic acid | 36.6 mmol, 4.5 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | K2CO3 | 99.9 mmol, 13.8 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 3.3 mmol, 3.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-tert-butyl-5-nitrophenyl)pyridine | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=NC=C1 | C15H16N2O2
